US04504568
A dispersion of silver benzotriazole was prepared by ball-milling (for 16 hours and using 5 mm glass balls or beads) the silver salt of benzotriazole, 3.0 g, in water, 27 ml, to which had been added molten 121/2% w/v aqueous gelatin solution at pH 4.0, 3.0 ml.

reactant | silver | [Ag] | Ag
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | water | O | H2O
product | silver benzotriazole | N1N=NC2=C1C=CC=C2.[Ag] | InChI=1S/C6H5N3.Ag/c1-2-4-6-5(3-1)7-9-8-6;/h1-4H,(H,7,8,9);
